US04592866
2-(2-Chloroethyl)-2,3-dihydro-4-methyl-1,4-benzoxazepine-5(4H)-thione
A mixture of 18.5 g (0.0834 mole) of phosphorus pentasulfide and 18.5 g potassium sulfide was ground together and added to a solution of 100 g (0.417 mole) of 2-(2-chloroethyl)-2,3-dihydro-4-methyl-1,4-benzoxazepin-5(4H)-one in dry toluene, the mixture refluxed for 24 hr. and filtered. The filtrate was concentrated and partitioned between chloroform and dilute sodium hydroxide. The chloroform layer was concentrated and the residue was crystallized several times from ethanol. Yield of product was 55 g (52%), m.p. 105°-108° C.

reactant | phosphorus pentasulfide | 0.0834 mole, 18.5 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | potassium sulfide | 18.5 g | [S-2].[K+].[K+]
reactant | 2-(2-chloroethyl)-2,3-dihydro-4-methyl-1,4-benzoxazepin-5(4H)-one | 0.417 mole, 100 g | ClCCC1OC2=C(C(N(C1)C)=O)C=CC=C2 | C12H14ClNO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-(2-Chloroethyl)-2,3-dihydro-4-methyl-1,4-benzoxazepine-5(4H)-thione | ClCCC1OC2=C(C(N(C1)C)=S)C=CC=C2 | C12H14ClNOS
